US05242796
A. Preparation of 5'-Deoxy-5'-(methyl-amino)-thymidine)
5'-O-(p-toluenesulfonyl)thymidine (19.8 g, 50 mmol) was placed in a pressure vessel into which monomethylamine (250 g) was condensed. The vessel was sealed and allowed to stand at room temperature for 3 days. The vessel was cooled, opened, and the monomethylamine allowed to evaporate. The remaining contents of the vessel were removed by rinsing with water. The aqueous solution was passed through a column (6.5×20 cm) of AG50Wx8 ion-exchange resin (H+ form). The column was washed with water until the washings were neutral. The product was then eluted with 1N aqueous ammonium hydroxide. The eluent was stripped down and the resulting solid chromatographed on a column (6.5×20 cm) of silica gel with methylene chloride/methanol/concentrated aqueous ammonium hydroxide (85:13:2) as the eluting solvent. The product containing fractions were stripped down, then taken up in water and lyophilized. The product was a pale-yellow, amorphous solid (8.81 g, 69%). A satisfactory combustion analysis could not be obtained for this material.) [α]D25 (c=1.0 in water): +25.9 deg. ir (KBr): cm-1 1693, 1472, 1273, 1076. NMR (DMSO-d6): δ 1.790 (d, 3H), 2.051 (ddd, 13.4, 6.3, 3.5 hz, 1H), 2.142 (dt, 13.4, 6.9 hz, 1H), 2.314 (s, 3H), 2.658 (d, 5.5 hz, 2H), 3.775 (td, 5.3, 3.2 hz, 1H), 4.171 (dt, 6.3, 3.2 hz, 1H), 6.134 (t, 6.9 hz, 1H) and d7.639 (s, 1H).

reactant | 5'-O-(p-toluenesulfonyl)thymidine | 50 mmol, 19.8 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O)C | C17H20N2O7S
reactant | monomethylamine | 250 g | CN | CH5N
reactant | KBr | [K+].[Br-]
solvent | water | O | H2O
product | 5'-Deoxy-5'-(methyl-amino)-thymidine | CNC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O | C11H17N3O4
